US08236826B2
Production of 4-(2-fluoro-4-nitrophenoxy)phenylamine hydrochloride
N-[4-(2-fluoro-4-nitrophenoxy)phenyl]-acetamide (1.00 g, 3.45 mmol) was added to 6 M hydrochloric acid (10 mL), and the resulting solution was refluxed for 2 hours. The resulting reaction solution was concentrated under reduced pressure, to thereby yield 0.910 g of the title compound.

reactant | N-[4-(2-fluoro-4-nitrophenoxy)phenyl]-acetamide | 3.45 mmol, 1.00 g | FC1=C(OC2=CC=C(C=C2)NC(C)=O)C=CC(=C1)[N+](=O)[O-] | C14H11FN2O4
reactant | hydrochloric acid | 6 M, 10 mL | Cl | ClH
product | 4-(2-fluoro-4-nitrophenoxy)phenylamine hydrochloride | Cl.FC1=C(OC2=CC=C(C=C2)N)C=CC(=C1)[N+](=O)[O-] | InChI=1S/C12H9FN2O3.ClH/c13-11-7-9(15(16)17)3-6-12(11)18-10-4-1-8(14)2-5-10;/h1-7H,14H2;1H
